US06444829B1
A solution of 76 g (0.68 mol) potassium-tert.-butylate in 1.5 l DMF was cooled (−3° C.) and treated slowly (1.5 h) with 202 g (0.73 mol) triphenylmethanethiol in 0.81 DMF (at max 1° C.). After 2.5 h at 0° C., a solution of 161 g (0.61 mol) of (2S,4S)-4-Chloro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester in 0.35 l DMF was added. The reaction was stirred over night at 2° C., evaporated, dissolved in 1.5 l ethyl acetate, poured into 2.7 l aqueous saturated NH4Cl solution and extracted with ethyl acetate (2×). The organic phase was washed with aqueous saturated NaHCO3, dried over Na2SO4 and evaporated. HPLC on silica gel with hexane/ethyl acetate (95:5 to 7:3) gave 268 g (87%) (2S,4R)-4-Tritylsulfanyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester, MS: 504 (MH+).

reactant | triphenylmethanethiol | 0.73 mol, 202 g | C1(=CC=CC=C1)C(S)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16S
reactant | (2S,4S)-4-Chloro-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 0.61 mol, 161 g | COC(=O)[C@H]1N(C[C@H](C1)Cl)C(=O)OC(C)(C)C | C11H18ClNO4
solvent | DMF | 1.5 l | CN(C)C=O | C3H7NO
solvent | DMF | 0.35 l | CN(C)C=O | C3H7NO
product | (2S,4R)-4-Tritylsulfanyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 268 g, 87% | COC(=O)[C@H]1N(C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C30H33NO4S
